US08017626B2
Method 17: Methyl 2-(1-ethyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate
In 4 mL of toluene in a microwave vial, ethyl 1-ethyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxylate (0.380 g, 1 mmol), glycine methyl ester hydrochloride (0.5 g, 4 mmol) was microwaved at 180° C. for 3 minutes and then purified by silica flash chromatography (with a 1-5% MeOH/DCM gradient to afford 0.050 g. Yield: 11%

reactant | ethyl 1-ethyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxylate | 1 mmol, 0.380 g | C(C)N1C(C(=C(C2=CC=CC=C12)O)C(=O)OCC)=O | C14H15NO4
reactant | glycine methyl ester hydrochloride | 4 mmol, 0.5 g | Cl.COC(CN)=O
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-(1-ethyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate | Yield: 11% | C(C)N1C(C(=C(C2=CC=CC=C12)O)C(=O)NCC(=O)OC)=O | C15H16N2O5
